US03947470
Acylation of 10.5 g. (0.054 mol.) of 2-phenylbenzofuran with 9.9 g. (0.058 mol.) of m-anisoyl chloride according to the procedure described in Example 1 gives 3-(3-methoxybenzoyl)-2-phenylbenzofuran.

reactant | 2-phenylbenzofuran | 0.054 mol | C1(=CC=CC=C1)C=1OC2=C(C1)C=CC=C2 | C14H10O
reactant | m-anisoyl chloride | 0.058 mol | C(C1=CC(=CC=C1)OC)(=O)Cl | C8H7ClO2
product | 3-(3-methoxybenzoyl)-2-phenylbenzofuran | COC=1C=C(C(=O)C2=C(OC3=C2C=CC=C3)C3=CC=CC=C3)C=CC1 | C22H16O3
